US07067517B2
5-(4-Methoxy-phenoxy)-pyrimidin-2-ol
A solution of sodium ethoxide, prepared from sodium (0.80 g, 35.0 mmol), 3-dimethylamino-2-(4-methoxy-phenoxy)-propenal (3.87 g, 17.5 mmol) and urea (2.10 g, 35.0 mmol) in ethanol (25 ml) was heated at reflux for 4 hours. Water (1 ml) was added and heating was continued for an additional 2 hours. The solution was cooled to room temperature and neutralised with glacial acetic acid. Most of the solvent was removed by evaporation in vacuo. Water was added and the precipitate was isolated by suction, followed by drying in a vacuum oven, yielding the title compound (0.80 g, 21% yield) as a yellow solid.

reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | sodium | 35.0 mmol, 0.80 g | [Na] | Na
reactant | 3-dimethylamino-2-(4-methoxy-phenoxy)-propenal | 17.5 mmol, 3.87 g | CN(C=C(C=O)OC1=CC=C(C=C1)OC)C | C12H15NO3
reactant | urea | 35.0 mmol, 2.10 g | NC(=O)N | CH4N2O
solvent | ethanol | 25 ml | C(C)O | C2H6O
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | Water | 1 ml | O | H2O
product | 5-(4-Methoxy-phenoxy)-pyrimidin-2-ol | 0.80 g, 21% yield | COC1=CC=C(OC=2C=NC(=NC2)O)C=C1 | C11H10N2O3
